US07473797B2
5-(4-Cyano-phenyl)-pent-2-en-4-ynoic acid ethyl ester (Table 2, entry 10):
The general procedure was used to convert 4-Ethynyl-Bezonitrile and (Z)-ethyl-3-iodoacrylate to the title product. Purification by flash chromatography (20% ethyl acetate in hexane as the eluent) gave the analytically pure product as a light yellow solid (380 mg, 85% yield). 1H NMR (400 MHz, CDCl3) δ 7.64-7.59 (m, J=8.5, 4H), 6.37-6.34 (d, J=11.3, 1H), 6.24-6.21 (d, J=11.3, 1H), 4.28-4.23 (q, J=7.1, 2H), 1.34-1.30 (t, J=7.1, 3H). 13C NMR (100 MHz, CDCl3) δ 164.40, 132.39, 132.03, 130.08, 127.49, 121.74, 118.25, 112.37, 98.34, 89.94, 60.57, 14.23. Anal. Calcd. for C14H11NO2: C, 74.65; H, 4.92, N, 6.22; Found C, 74.45; H, 4.84, N, 6.06. m.p.: 69.5°-71.5° C.

reactant | 4-Ethynyl-Bezonitrile | C(#C)C1=CC=C(C#N)C=C1 | C9H5N
reactant | (Z)-ethyl-3-iodoacrylate | C(C)OC(\C=C/I)=O | C5H7IO2
product | 5-(4-Cyano-phenyl)-pent-2-en-4-ynoic acid ethyl ester | C(C)OC(C=CC#CC1=CC=C(C=C1)C#N)=O | C14H11NO2
